US04052407
d. 2-Methyl-4-(6-carbomethoxyhexyl)-5-hydroxymethyl-thiazole (XXI, R1 = CH3)
To the solution of 4.15 g of 2-methyl-4-(6-carbomethoxyhexyl)-thiazole-5-carboxylic acid (X, R1 = CH3) in 50 ml of anhydrous benzene 4.2 ml of oxalyl chloride were added dropwise, and the reaction mixture was allowed to stand overnight at room temperature, then benzene and excess oxalyl chloride were evaporated in vacuo. The obtained residue containing 2-methyl-4-(6-carbomethoxyhexyl)-thiazole-5-carboxylic acid chloride (XI, R1 = CH3) was dissolved in 20 ml of anhydrous dioxane, and a suspension of 1.1 g of sodium borohydride in 20 ml of anhydrous dioxane was added dropwise to the solution under continuous stirring. Stirring of the reaction mixture was continued for 30 minutes at room temperature and for further 60 minutes at 80° C. When the reaction mixture was cooled to room temperature, 25 ml of water were dropwise added under ice-cooling to the reaction mxiture, and stirring was continued for 2 hours at room temperature. Subsequently, the aqueous reaction mixture was extracted with 3 × 50 ml of ethyl acetate. The ethyl acetate extract was dried over sodium sulphate and evaporated in vacuo, yielding 2.95 of crude product.

reactant | 2-methyl-4-(6-carbomethoxyhexyl)-thiazole-5-carboxylic acid | 4.15 g | CC=1SC(=C(N1)CCCCCCC(=O)OC)C(=O)O | C13H19NO4S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-Methyl-4-(6-carbomethoxyhexyl)-5-hydroxymethyl-thiazole | CC=1SC(=C(N1)CCCCCCC(=O)OC)CO | C13H21NO3S
